US09079853B2
5-methyl-2-oxo-1-phenethylindolin-3-yl benzoate
Was made in an analogous fashion to 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate using 5-methyl-1-phenethylindoline-2,3-dione. 1H NMR δ 8.11 (dd, 2H), 7.58 (dt, 1H), 7.46 (dd, 2H), 7.34-7.26 (m, 6H), 7.13 (d, 1H), 6.73 (d, 1H), 6.14 (s, 1H), 3.96 (dd, 2H), 3.03 (t, 2H), 2.31 (s, 3H).

reactant | 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CC)=O | C18H17NO3
reactant | 5-methyl-1-phenethylindoline-2,3-dione | CC=1C=C2C(C(N(C2=CC1)CCC1=CC=CC=C1)=O)=O | C17H15NO2
product | 5-methyl-2-oxo-1-phenethylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CCC1=CC=CC=C1)=O | C24H21NO3
